US05439917
Preparation of 3-cyanomethyl-2-methyl-7-(4-fluorophenacyl) pyrrolo[2,3-b]pyridine hydrochloride.
A solution of 7 5 mg (0.44 mmol) of 3-cyanomethyl-2-methyl-pyrrolo [2,3 -b]pyridine and 99 mg(0.57 mmol) of 4-fluorophenacyl chloride in 1 ml acetonitrile was refluxed for 48 h. The solvent was evaporated and the residue was treated with 0.4 ml acetonitrile. After filtration the solid was treated with 0,3 ml methanol and 0,4 ml acetonitrile to give 75 mg (55% ) of the title compound.

reactant | 3-cyanomethyl-2-methyl-pyrrolo [2,3 -b]pyridine | C(#N)CC1=C(NC2=NC=CC=C21)C | C10H9N3
reactant | 4-fluorophenacyl chloride | 0.57 mmol, 99 mg | FC1=CC=C(C(CCl)=O)C=C1 | C8H6ClFO
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 3-cyanomethyl-2-methyl-7-(4-fluorophenacyl) pyrrolo[2,3-b]pyridine hydrochloride | 75 mg, 55% | Cl.C(#N)CC1=C(N=C2N(C=CC=C21)CC(=O)C2=CC=C(C=C2)F)C | InChI=1S/C18H14FN3O.ClH/c1-12-15(8-9-20)16-3-2-10-22(18(16)21-12)11-17(23)13-4-6-14(19)7-5-13;/h2-7,10H,8,11H2,1H3;1H
